* Large RC mesh network (~100 internal nodes) for performance testing
* 10x10 grid with resistors along rows/columns and caps to ground
.SUBCKT large_mesh port_nw port_ne port_sw port_se
* Corner connections
R_nw port_nw n_0_0 10
R_ne port_ne n_9_0 10
R_sw port_sw n_0_9 10
R_se port_se n_9_9 10
* Row resistors (horizontal)
R_r0_0 n_0_0 n_1_0 100
R_r0_1 n_1_0 n_2_0 100
R_r0_2 n_2_0 n_3_0 100
R_r0_3 n_3_0 n_4_0 100
R_r0_4 n_4_0 n_5_0 100
R_r0_5 n_5_0 n_6_0 100
R_r0_6 n_6_0 n_7_0 100
R_r0_7 n_7_0 n_8_0 100
R_r0_8 n_8_0 n_9_0 100
R_r1_0 n_0_1 n_1_1 100
R_r1_1 n_1_1 n_2_1 100
R_r1_2 n_2_1 n_3_1 100
R_r1_3 n_3_1 n_4_1 100
R_r1_4 n_4_1 n_5_1 100
R_r1_5 n_5_1 n_6_1 100
R_r1_6 n_6_1 n_7_1 100
R_r1_7 n_7_1 n_8_1 100
R_r1_8 n_8_1 n_9_1 100
R_r2_0 n_0_2 n_1_2 100
R_r2_1 n_1_2 n_2_2 100
R_r2_2 n_2_2 n_3_2 100
R_r2_3 n_3_2 n_4_2 100
R_r2_4 n_4_2 n_5_2 100
R_r2_5 n_5_2 n_6_2 100
R_r2_6 n_6_2 n_7_2 100
R_r2_7 n_7_2 n_8_2 100
R_r2_8 n_8_2 n_9_2 100
R_r3_0 n_0_3 n_1_3 100
R_r3_1 n_1_3 n_2_3 100
R_r3_2 n_2_3 n_3_3 100
R_r3_3 n_3_3 n_4_3 100
R_r3_4 n_4_3 n_5_3 100
R_r3_5 n_5_3 n_6_3 100
R_r3_6 n_6_3 n_7_3 100
R_r3_7 n_7_3 n_8_3 100
R_r3_8 n_8_3 n_9_3 100
R_r4_0 n_0_4 n_1_4 100
R_r4_1 n_1_4 n_2_4 100
R_r4_2 n_2_4 n_3_4 100
R_r4_3 n_3_4 n_4_4 100
R_r4_4 n_4_4 n_5_4 100
R_r4_5 n_5_4 n_6_4 100
R_r4_6 n_6_4 n_7_4 100
R_r4_7 n_7_4 n_8_4 100
R_r4_8 n_8_4 n_9_4 100
R_r5_0 n_0_5 n_1_5 100
R_r5_1 n_1_5 n_2_5 100
R_r5_2 n_2_5 n_3_5 100
R_r5_3 n_3_5 n_4_5 100
R_r5_4 n_4_5 n_5_5 100
R_r5_5 n_5_5 n_6_5 100
R_r5_6 n_6_5 n_7_5 100
R_r5_7 n_7_5 n_8_5 100
R_r5_8 n_8_5 n_9_5 100
R_r6_0 n_0_6 n_1_6 100
R_r6_1 n_1_6 n_2_6 100
R_r6_2 n_2_6 n_3_6 100
R_r6_3 n_3_6 n_4_6 100
R_r6_4 n_4_6 n_5_6 100
R_r6_5 n_5_6 n_6_6 100
R_r6_6 n_6_6 n_7_6 100
R_r6_7 n_7_6 n_8_6 100
R_r6_8 n_8_6 n_9_6 100
R_r7_0 n_0_7 n_1_7 100
R_r7_1 n_1_7 n_2_7 100
R_r7_2 n_2_7 n_3_7 100
R_r7_3 n_3_7 n_4_7 100
R_r7_4 n_4_7 n_5_7 100
R_r7_5 n_5_7 n_6_7 100
R_r7_6 n_6_7 n_7_7 100
R_r7_7 n_7_7 n_8_7 100
R_r7_8 n_8_7 n_9_7 100
R_r8_0 n_0_8 n_1_8 100
R_r8_1 n_1_8 n_2_8 100
R_r8_2 n_2_8 n_3_8 100
R_r8_3 n_3_8 n_4_8 100
R_r8_4 n_4_8 n_5_8 100
R_r8_5 n_5_8 n_6_8 100
R_r8_6 n_6_8 n_7_8 100
R_r8_7 n_7_8 n_8_8 100
R_r8_8 n_8_8 n_9_8 100
R_r9_0 n_0_9 n_1_9 100
R_r9_1 n_1_9 n_2_9 100
R_r9_2 n_2_9 n_3_9 100
R_r9_3 n_3_9 n_4_9 100
R_r9_4 n_4_9 n_5_9 100
R_r9_5 n_5_9 n_6_9 100
R_r9_6 n_6_9 n_7_9 100
R_r9_7 n_7_9 n_8_9 100
R_r9_8 n_8_9 n_9_9 100
* Column resistors (vertical)
R_c0_0 n_0_0 n_0_1 100
R_c0_1 n_0_1 n_0_2 100
R_c0_2 n_0_2 n_0_3 100
R_c0_3 n_0_3 n_0_4 100
R_c0_4 n_0_4 n_0_5 100
R_c0_5 n_0_5 n_0_6 100
R_c0_6 n_0_6 n_0_7 100
R_c0_7 n_0_7 n_0_8 100
R_c0_8 n_0_8 n_0_9 100
R_c1_0 n_1_0 n_1_1 100
R_c1_1 n_1_1 n_1_2 100
R_c1_2 n_1_2 n_1_3 100
R_c1_3 n_1_3 n_1_4 100
R_c1_4 n_1_4 n_1_5 100
R_c1_5 n_1_5 n_1_6 100
R_c1_6 n_1_6 n_1_7 100
R_c1_7 n_1_7 n_1_8 100
R_c1_8 n_1_8 n_1_9 100
R_c2_0 n_2_0 n_2_1 100
R_c2_1 n_2_1 n_2_2 100
R_c2_2 n_2_2 n_2_3 100
R_c2_3 n_2_3 n_2_4 100
R_c2_4 n_2_4 n_2_5 100
R_c2_5 n_2_5 n_2_6 100
R_c2_6 n_2_6 n_2_7 100
R_c2_7 n_2_7 n_2_8 100
R_c2_8 n_2_8 n_2_9 100
R_c3_0 n_3_0 n_3_1 100
R_c3_1 n_3_1 n_3_2 100
R_c3_2 n_3_2 n_3_3 100
R_c3_3 n_3_3 n_3_4 100
R_c3_4 n_3_4 n_3_5 100
R_c3_5 n_3_5 n_3_6 100
R_c3_6 n_3_6 n_3_7 100
R_c3_7 n_3_7 n_3_8 100
R_c3_8 n_3_8 n_3_9 100
R_c4_0 n_4_0 n_4_1 100
R_c4_1 n_4_1 n_4_2 100
R_c4_2 n_4_2 n_4_3 100
R_c4_3 n_4_3 n_4_4 100
R_c4_4 n_4_4 n_4_5 100
R_c4_5 n_4_5 n_4_6 100
R_c4_6 n_4_6 n_4_7 100
R_c4_7 n_4_7 n_4_8 100
R_c4_8 n_4_8 n_4_9 100
R_c5_0 n_5_0 n_5_1 100
R_c5_1 n_5_1 n_5_2 100
R_c5_2 n_5_2 n_5_3 100
R_c5_3 n_5_3 n_5_4 100
R_c5_4 n_5_4 n_5_5 100
R_c5_5 n_5_5 n_5_6 100
R_c5_6 n_5_6 n_5_7 100
R_c5_7 n_5_7 n_5_8 100
R_c5_8 n_5_8 n_5_9 100
R_c6_0 n_6_0 n_6_1 100
R_c6_1 n_6_1 n_6_2 100
R_c6_2 n_6_2 n_6_3 100
R_c6_3 n_6_3 n_6_4 100
R_c6_4 n_6_4 n_6_5 100
R_c6_5 n_6_5 n_6_6 100
R_c6_6 n_6_6 n_6_7 100
R_c6_7 n_6_7 n_6_8 100
R_c6_8 n_6_8 n_6_9 100
R_c7_0 n_7_0 n_7_1 100
R_c7_1 n_7_1 n_7_2 100
R_c7_2 n_7_2 n_7_3 100
R_c7_3 n_7_3 n_7_4 100
R_c7_4 n_7_4 n_7_5 100
R_c7_5 n_7_5 n_7_6 100
R_c7_6 n_7_6 n_7_7 100
R_c7_7 n_7_7 n_7_8 100
R_c7_8 n_7_8 n_7_9 100
R_c8_0 n_8_0 n_8_1 100
R_c8_1 n_8_1 n_8_2 100
R_c8_2 n_8_2 n_8_3 100
R_c8_3 n_8_3 n_8_4 100
R_c8_4 n_8_4 n_8_5 100
R_c8_5 n_8_5 n_8_6 100
R_c8_6 n_8_6 n_8_7 100
R_c8_7 n_8_7 n_8_8 100
R_c8_8 n_8_8 n_8_9 100
R_c9_0 n_9_0 n_9_1 100
R_c9_1 n_9_1 n_9_2 100
R_c9_2 n_9_2 n_9_3 100
R_c9_3 n_9_3 n_9_4 100
R_c9_4 n_9_4 n_9_5 100
R_c9_5 n_9_5 n_9_6 100
R_c9_6 n_9_6 n_9_7 100
R_c9_7 n_9_7 n_9_8 100
R_c9_8 n_9_8 n_9_9 100
* Ground capacitors at each internal node
C_0_0 n_0_0 0 1P
C_1_0 n_1_0 0 1P
C_2_0 n_2_0 0 1P
C_3_0 n_3_0 0 1P
C_4_0 n_4_0 0 1P
C_5_0 n_5_0 0 1P
C_6_0 n_6_0 0 1P
C_7_0 n_7_0 0 1P
C_8_0 n_8_0 0 1P
C_9_0 n_9_0 0 1P
C_0_1 n_0_1 0 1P
C_1_1 n_1_1 0 1P
C_2_1 n_2_1 0 1P
C_3_1 n_3_1 0 1P
C_4_1 n_4_1 0 1P
C_5_1 n_5_1 0 1P
C_6_1 n_6_1 0 1P
C_7_1 n_7_1 0 1P
C_8_1 n_8_1 0 1P
C_9_1 n_9_1 0 1P
C_0_2 n_0_2 0 1P
C_1_2 n_1_2 0 1P
C_2_2 n_2_2 0 1P
C_3_2 n_3_2 0 1P
C_4_2 n_4_2 0 1P
C_5_2 n_5_2 0 1P
C_6_2 n_6_2 0 1P
C_7_2 n_7_2 0 1P
C_8_2 n_8_2 0 1P
C_9_2 n_9_2 0 1P
C_0_3 n_0_3 0 1P
C_1_3 n_1_3 0 1P
C_2_3 n_2_3 0 1P
C_3_3 n_3_3 0 1P
C_4_3 n_4_3 0 1P
C_5_3 n_5_3 0 1P
C_6_3 n_6_3 0 1P
C_7_3 n_7_3 0 1P
C_8_3 n_8_3 0 1P
C_9_3 n_9_3 0 1P
C_0_4 n_0_4 0 1P
C_1_4 n_1_4 0 1P
C_2_4 n_2_4 0 1P
C_3_4 n_3_4 0 1P
C_4_4 n_4_4 0 1P
C_5_4 n_5_4 0 1P
C_6_4 n_6_4 0 1P
C_7_4 n_7_4 0 1P
C_8_4 n_8_4 0 1P
C_9_4 n_9_4 0 1P
C_0_5 n_0_5 0 1P
C_1_5 n_1_5 0 1P
C_2_5 n_2_5 0 1P
C_3_5 n_3_5 0 1P
C_4_5 n_4_5 0 1P
C_5_5 n_5_5 0 1P
C_6_5 n_6_5 0 1P
C_7_5 n_7_5 0 1P
C_8_5 n_8_5 0 1P
C_9_5 n_9_5 0 1P
C_0_6 n_0_6 0 1P
C_1_6 n_1_6 0 1P
C_2_6 n_2_6 0 1P
C_3_6 n_3_6 0 1P
C_4_6 n_4_6 0 1P
C_5_6 n_5_6 0 1P
C_6_6 n_6_6 0 1P
C_7_6 n_7_6 0 1P
C_8_6 n_8_6 0 1P
C_9_6 n_9_6 0 1P
C_0_7 n_0_7 0 1P
C_1_7 n_1_7 0 1P
C_2_7 n_2_7 0 1P
C_3_7 n_3_7 0 1P
C_4_7 n_4_7 0 1P
C_5_7 n_5_7 0 1P
C_6_7 n_6_7 0 1P
C_7_7 n_7_7 0 1P
C_8_7 n_8_7 0 1P
C_9_7 n_9_7 0 1P
C_0_8 n_0_8 0 1P
C_1_8 n_1_8 0 1P
C_2_8 n_2_8 0 1P
C_3_8 n_3_8 0 1P
C_4_8 n_4_8 0 1P
C_5_8 n_5_8 0 1P
C_6_8 n_6_8 0 1P
C_7_8 n_7_8 0 1P
C_8_8 n_8_8 0 1P
C_9_8 n_9_8 0 1P
C_0_9 n_0_9 0 1P
C_1_9 n_1_9 0 1P
C_2_9 n_2_9 0 1P
C_3_9 n_3_9 0 1P
C_4_9 n_4_9 0 1P
C_5_9 n_5_9 0 1P
C_6_9 n_6_9 0 1P
C_7_9 n_7_9 0 1P
C_8_9 n_8_9 0 1P
C_9_9 n_9_9 0 1P
.ENDS large_mesh
