* Mixed subcircuit with non-R/C elements that must pass through unchanged
.SUBCKT passthrough VDD VSS IN OUT
M1 OUT IN VDD VDD PMOS W=1U L=100N
M2 OUT IN VSS VSS NMOS W=500N L=100N
R1 VDD net1 50
C1 net1 0 1P
R2 net1 OUT 50
Xbuf net1 net2 buffer
C2 OUT VSS 2P
.ENDS passthrough
