* RC star/Y network for Y-to-delta testing
* Three port nodes connected through a central internal node
.SUBCKT rc_star p1 p2 p3
R1 p1 center 100
R2 p2 center 200
R3 p3 center 300
C1 center 0 10P
.ENDS rc_star
