* Simple RC chain for series reduction testing
* port1 -- R1 -- n1 -- R2 -- n2 -- R3 -- port2
*                 |           |
*                C1          C2
*                 |           |
*                GND         GND
.SUBCKT simple_rc_chain port1 port2
R1 port1 n1 100
C1 n1 0 1P
R2 n1 n2 200
C2 n2 0 2P
R3 n2 port2 100
.ENDS simple_rc_chain
